US06153793
To the solution of 131 g of sodium hydroxide dissolved in 400 ml of water, 400 ml of an aqueous solution containing 273 g of N-methylhydroxylamine hydrochloride was added, with ice-cooling. Subsequently, 384 g of N,N-dimethylglycine methyl ester was added thereto. The resultant reaction mixture was stirred at room temperature for 3 days. The results of gas chromatography demonstrated a rate of residual raw materials: 2.3%, a rate of formation of N-methyl-α-dimethylaminoacetohydroxamic acid: 51.5%, and a rate of secondary production of N,N-dimethylglycine: 45.1%. After a large portion of the solvent was distilled off under a reduced pressure, chloroform and then anhydrous magnesium sulfate were added to the residue; thereafter, they were fully shaked, followed by filtration, to remove insoluble substances. After the resultant filtrate was concentrated, the residue was recrystallized from aceton/methanol (50/1), to give 186 g of crystals. As a result of analysis of the crystals using gas chromatography and 1H-NMR, it was found that each several percents of each of N,N-dimethylglycine and N-methylhydroxylamine were mixed therein, and therefore the crystals were dissolved again in 3 liters of chloroform, to remove insoluble substances by filtration. After the filtrate was concentrated, the residue was recrystallized from aceton/methanol (12/1), to give 111 g (yield 25.6%) of pure N-methyl-α-dimethylaminoacetohydroxamic acid.

reactant | N,N-dimethylglycine | CN(CC(=O)O)C | C4H9NO2
reactant | N-methylhydroxylamine | CNO | CH5NO
solvent | chloroform | 3 liters | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-α-dimethylaminoacetohydroxamic acid | 111 g, yield 25.6% | CN(O)C(CN(C)C)=O | C5H12N2O2
